US07825253B2
N5-(2-Methoxy-pyridin-3-ylmethyl)-N2-(5-methyl-furan-2-ylmethyl)-quinoline-2,5-diamine
The title compound, MS: m/e=375.1 (M+H+), was prepared from 5-nitro-2-chloroquinoline, 5-methyl-2-furanmethanamine and 2-methoxy-3-pyridinecarboxaldehyde as described in example 26.

reactant | 5-nitro-2-chloroquinoline | [N+](=O)([O-])C1=C2C=CC(=NC2=CC=C1)Cl | C9H5ClN2O2
reactant | 5-methyl-2-furanmethanamine | CC1=CC=C(O1)CN | C6H9NO
reactant | 2-methoxy-3-pyridinecarboxaldehyde | COC1=NC=CC=C1C=O | C7H7NO2
product | N5-(2-Methoxy-pyridin-3-ylmethyl)-N2-(5-methyl-furan-2-ylmethyl)-quinoline-2,5-diamine | COC1=NC=CC=C1CNC=1C=2C=CC(=NC2C=CC1)NCC=1OC(=CC1)C | C22H22N4O2
